US08664428B2
3-Bromo-2,6-dimethylphenylacetic acid
At 45° C., a solution of 62.5 g [391 mmol] of bromine in 120 ml of glacial acetic acid is added dropwise over a period of 1 hour to a solution of 47.6 g [290 mmol] of 2,6-dimethylphenylacetic acid in 300 ml of glacial acetic acid. The reaction mixture is then stirred at 45° C. for another 16 hours and concentrated on a rotary evaporator. The solid obtained is stirred in 180 ml of methylcyclohexane at room temperature for 4 hours. After filtration, the residue is washed twice with in each case 60 ml of methylcyclohexane and then dried. This gives 64.9 g of a solid. GC(sil.) analysis: 97.7% pure (89.9% of theory).

reactant | bromine | 391 mmol, 62.5 g | BrBr | Br2
reactant | 2,6-dimethylphenylacetic acid | 290 mmol, 47.6 g | CC1=C(C(=CC=C1)C)CC(=O)O | C10H12O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | methylcyclohexane | 180 ml | CC1CCCCC1 | C7H14
product | 3-Bromo-2,6-dimethylphenylacetic acid | BrC=1C(=C(C(=CC1)C)CC(=O)O)C | C10H11BrO2
